US03957833
By utilizing the procedure of Example 8, by reacting p-[(3,6,7-trimethylocta-2,6-dienyl)oxy]benzoic acid with propargyl bromide, there is obtained p-[(3,6,7-trimethylocta-2,6-dienyl)oxy]benzoic acid propargyl ester; nD24 = 1.5349.

reactant | p-[(3,6,7-trimethylocta-2,6-dienyl)oxy]benzoic acid | CC(=CCOC1=CC=C(C(=O)O)C=C1)CCC(=C(C)C)C | C18H24O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | p-[(3,6,7-trimethylocta-2,6-dienyl)oxy]benzoic acid propargyl ester | C(C#C)OC(C1=CC=C(C=C1)OCC=C(CCC(=C(C)C)C)C)=O | C21H26O3
